US05354502
55 g (0.30 mol) of trans-4-butylcyclohexane carboxylic acid was dispersed in 200 cm3 of toluene, and while stirring at room temperature, 250 cm3 (0.90 mol) of a 70% NaAlH2 (OC2H4OCH3)2 in toluene was added dropwise at a rate where the toluene refluxed quietly, after which it was stirred for 3 hours on a 90° C. hot water bath. The reactant was cooled to room temperature, cm3 of water and 300 cm3 of 15% HCl were added dropwise while stirring, the oily layer was taken off, the water layer was extracted with toluene and combined with the oily layer, and they were washed with 10% HC1 and water. The toluene was removed, and the remaining oily substance was distilled under reduced pressure (b. p. 100° C./2 mmHg) to obtain 37 g (0.22 mol) of trans-4-butylcyclohexylmethanol.

reactant | trans-4-butylcyclohexane carboxylic acid | 0.30 mol, 55 g | C(CCC)[C@@H]1CC[C@H](CC1)C(=O)O | C11H20O2
reactant | water | O | H2O
reactant | HCl | 300 cm3 | Cl | ClH
solvent | toluene | 200 cm3 | C1(=CC=CC=C1)C | C7H8
product | trans-4-butylcyclohexylmethanol | 0.22 mol, 37 g | C(CCC)[C@@H]1CC[C@H](CC1)CO | C11H22O
